US05189036
N-Butyl-1-(4-fluorobenzoyl)piperidine-4-carboxamide
1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid (8.79 g, 35.0 mmol) is dissolved in methylene chloride (75 mL) at 0° C., and dimethylformamide (0.20 mL) and oxalyl chloride (4.9 g, 39 mmol) are added. The mixture is stirred at room temperature for 2 hr. In a second flask, butylamine (2.6 g, 35 mmol) and potassium carbonate (9.67 g, 75.4 mmol) are dissolved in water (100 mL) and methylene chloride (200 mL) at 0° C. The first mixture is added to the second dropwise over 45 min, and the mixture is stirred at 0° C. for 2 hr. The organic phase is separated, washed twice with saturated sodium bicarbonate, twice with 1N HCl, dried over magnesium sulfate, and evaporated. Recrystallization from ethyl acetate-hexane affords the title compound.

reactant | 1-(4-Fluorobenzoyl)piperidine-4-carboxylic acid | 35.0 mmol, 8.79 g | FC1=CC=C(C(=O)N2CCC(CC2)C(=O)O)C=C1 | C13H14FNO3
reactant | oxalyl chloride | 39 mmol, 4.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | butylamine | 35 mmol, 2.6 g | C(CCC)N | C4H11N
reactant | potassium carbonate | 75.4 mmol, 9.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 0.20 mL | CN(C=O)C | C3H7NO
product | N-Butyl-1-(4-fluorobenzoyl)piperidine-4-carboxamide | C(CCC)NC(=O)C1CCN(CC1)C(C1=CC=C(C=C1)F)=O | C17H23FN2O2
